US06689780B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylmethyl)amino]pyridine-2-carboxamide
A solution containing 1-tert-butoxycarbonylpiperidine-4-carboxaldehyde (2.00 g, 9.38 mmol), 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide (2.33 g, 9.38 mmol), and pyridinium p-toluenesulfonate (236 mg, 0.94 mmol) in benzene (100 mL) was heated at reflux with azeotropic removal of water. After 48 h, the mixture was concentrated and the residue was purified by column chromatography (SiO2: methylene chloride) yielding the title compound, which was contaminated with 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide and was used without further purification.

reactant | 1-tert-butoxycarbonylpiperidine-4-carboxaldehyde | 9.38 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | 9.38 mmol, 2.33 g | NC=1C(=NC=CC1)C(=O)NC1=NC=C(C=C1)Cl | C11H9ClN4O
reactant | pyridinium p-toluenesulfonate | 0.94 mmol, 236 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | N-(5-Chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylmethyl)amino]pyridine-2-carboxamide | ClC=1C=CC(=NC1)NC(=O)C1(NC=CC=C1)NCC1CCN(CC1)C(C)C | C20H28ClN5O
